US09193720B2
The isobutylene gas was bubbled into a nitrogen purged, cooled (0° C.) solution of (S)-isopropyl 2-(5-bromo-4-(3,3-difluoroazetidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate (175 mg, 0.45 mmol) and 0.05 mL of 70% HClO4 in DCM (5 mL) for 20 min. The reaction mixture was allowed to warm to rt and stirred for 18 h in a pressure sealed vessel, diluted with DCM, washed with 1M Na2CO3 solution, and dried over MgSO4. The crude product was charged (DCM) to a 24 g ISCO silica gel cartridge and gradient elution (5-35% EtOAc/hexanes) using an Isolera chromatography gave (S)-isopropyl 2-(5-bromo-4-(3,3-difluoroazetidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate 88 mg (44%). 1H NMR (400 MHz, DMSO-d6) δ 5.72 (s, 1H), 5.10-5.03 (m, 1H), 4.80-4.72 (m, 2H), 4.59-4.15 (m, 2H), 2.62 (s, 3H), 2.48 (s, 3H), 1.38 (d, J=6.1 Hz, 3H), 1.20 (s, 9H), 1.19 (d, J=6.1 Hz, 3H). UPLC (M+H)=451.3.

reactant | (S)-isopropyl 2-(5-bromo-4-(3,3-difluoroazetidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate | 0.45 mmol, 175 mg | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)O)N1CC(C1)(F)F | C15H19BrF2N2O3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-isopropyl 2-(5-bromo-4-(3,3-difluoroazetidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 88 mg, 44% | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C)N1CC(C1)(F)F | C19H27BrF2N2O3
